Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Muscle aches, possible loss of reflexes
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a healthy ___ right-handed woman who 
presents as a transfer with bilateral shoulder pain, leg 
heaviness, and absent reflexes since last night in the setting 
of multiple vaccinations 2 weeks ago. 

Ms. ___ arrived from ___ on ___ for a 6 week ___ 
Department sponsored course on public management at ___ 
___. She is accompanied by a program facilitator 
from the ___. On ___ she was vaccinated with MMR, 
meningococcal vaccine, and one other vaccines she is not sure 
of. She notes that since that day she has had a strip of "chili 
like"
burning pain across her lower back that does not extend to the 
front.

Yesterday, she spent the entire day out in the sun with her 
classmates enjoying ___ festivities.  She had a mild 
headache which she attributed to being out at the parade all 
day. In the evening when she went to bed she noted mild 
discomfort in her back when she laid down to sleep.  She soon 
developed
shoulder pain which started on the right and progressed to the 
left, focused on the anterior aspect of the shoulder joint.  The 
left shoulder pain gradually became more intense (___) than 
the right (___), and both were exacerbated by movement.  She 
was unable to sleep all night due to the pain, and only found 
relief by using her less painful right arm to lift her left arm 
by the
wrist and place it in a sling-like position across her chest.  
She simultaneously felt that her legs were heavy, though she was 
able to move them in bed.  At one point the room had become too 
cold, but due to arm pain she had difficulty getting out of bed 
to adjust the thermostat, so she laid there for the rest of the 
evening enduring the cold.  She attempted to text some of her
classmates for help, but everybody was asleep.  

In the morning she forced herself to get out of bed.  She was 
able to walk, however says her back was weak and she was hunched 
forward.  She did not feel incoordinated.  She notes that her 
legs (especially hamstrings) and back were sore as if she had 
just exercised excessively.  Her shoulder pain was much sharper 
in character.  She obtained help, and was promptly taken by EMS 
to ___.  There she was given Toradol, which has 
helped reduce the pain somewhat.  A number of providers, 
including ___ neurologist, were unable to elicit deep tendon 
reflexes from her on exam. They deferred lumbar puncture, 
instead opting to transfer her to ___ for further management. 

She denies any recent fevers, colds, visual symptoms, speech 
problems, numbness.  She has had no recent exposure to wooded 
areas, no bug bites or rashes.  As noted above she had a 
headache yesterday, attributed to being in the sun. 

She recently started exercising again by running.  She says she 
used to run at home in ___, but has restarted training since 
arriving in the ___.  She has not done any other 
activities involving her shoulders, and says she wore a light 
backpack yesterday carrying only her cell phone and a few other 
small items. 

On neuro ROS:
+ Leg heaviness
- No recent loss of vision, blurred vision, diplopia, 
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus, or 
hearing difficulty. No difficulties producing or comprehending 
speech.  No focal numbness, parasthesiae. No bowel or bladder 
incontinence or retention. No difficulty with gait.

On general ROS: 
+ Arthralgia
- No recent fever, chills, night sweats, or recent weight loss 
or gain. No chest pain, palpitations, cough, shortness of 
breath.  No nausea, vomiting, diarrhea, constipation or 
abdominal pain.  No recent change in bowel or bladder habits. No 
myalgias, or rashes.
 
Past Medical History:
None.
 
Social History:
___
Family History:
No family history of seizures, strokes, or autoimmune disorders. 
Family history of diabetes.
 
Physical Exam:
ADMISSION EXAM:
 
-Vitals: T: 98.1 BP: 109/59 HR: 50 RR: 16 SaO2: 99%
-General: Awake, cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. No carotid bruits appreciated. No nuchal 
rigidity.
-Cardiac: RRR. Well perfused. 
-Pulmonary: CTAB without R/R/W. Breathing comfortably on room
air.
-Abdomen: Soft, NT/ND. Normoactive bowel sounds. 
-Extremities: No cyanosis, clubbing, or edema bilaterally. 2+
radial.
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact comprehension. Normal
prosody. There are no paraphasic errors. Able to name both high
and low frequency objects.  Speech is not dysarthric. Able to
follow both midline and appendicular commands. Able to register 
3
objects and recall ___ at 5 minutes. Had good knowledge of
current events. There is no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm and brisk. VFF to confrontation and no
extinction. Fundoscopic exam revealed no papilledema, exudates,
or hemorrhages. Optic margins crisp.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
* Raises arms slowly, but with encouragement able to give
excellent sustained strength at deltoids. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  ___  5     5     5   5
R  5    ___   ___  ___-  5     5     5   5
* Noted hamstrings were sore. 

-Sensory: No deficits to light touch, cold sensation, pinprick.
Proprioception was intact at the great toes bilaterally. No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach 
L  2  Tr    1    2  Tr   
R  2  Tr    1    2  Tr  
Plantar response was flexor bilaterally.
* The representative from ___ was surprised 
to
see her reflexes as she says she had seen multiple people try at
___ and in the ED here without any success. 

-Coordination: No intention tremor. No dysmetria on FNF, able to
continue with eyes close. No dysdiadochokinesia. 

-Gait: Able to stand stably. Romberg negative. With a few short
steps - narrow-based, normal stride.

================================================================

DISCHARGE EXAM:
-Vitals: T: 98.1 BP: 100/63 HR: 68 RR: 20 SaO2: 90%
-General: Awake, cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. No carotid bruits appreciated. No nuchal 
rigidity.
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Extremities: No cyanosis, clubbing, or edema bilaterally.
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact comprehension. Normal 
prosody. There are no paraphasic errors. Able to name both high 
and low frequency objects.  Speech is not dysarthric. Able to
follow both midline and appendicular commands.

-Cranial Nerves: PERRL. EOMI without nystagmus. Facial sensation 
intact to light touch. No facial droop. Hearing grossly intact 
to speech. Palate elevates symmetrically. ___ strength in 
trapezii and SCM bilaterally. Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FE IO IP Quad Ham TA ___
L  5    5  --   ___  ___   5   5
R  5    ___  ___   ___   5

-Sensory: No deficits to light touch, pinprick. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach 
L  2   2    2    1  2   
R  2   2    2    1  2  
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF.

-Gait: Narrow-based and steady.
 
Pertinent Results:
___ 04:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD*
___ 04:00PM URINE  RBC-1 WBC-3 BACTERIA-FEW* YEAST-NONE 
EPI-6
___ 06:30AM   GLUCOSE-93 UREA N-10 CREAT-0.8 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-107 TOTAL CO2-22 ANION GAP-15
___ 06:30AM   ALT(SGPT)-14 AST(SGOT)-14 CK(CPK)-138 ALK 
PHOS-82 TOT BILI-0.3
___ 06:30AM   ALBUMIN-3.5 CALCIUM-8.8 PHOSPHATE-4.3 
MAGNESIUM-2.0
___ 06:30AM   CRP-15.6*
___ 06:30AM   WBC-5.0 RBC-4.06 HGB-12.1 HCT-36.3 MCV-89 
MCH-29.8 MCHC-33.3 RDW-12.6 RDWSD-41.3
___ 06:30AM   PLT COUNT-189
___ 06:30AM   ___
___ 08:29PM URINE  UCG-NEGATIVE
___ 08:29PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. Myalgias: Although patient's history of lower extremity pain 
and loss of reflexes in the setting of recent immunizations were 
concerning for ___ Syndrome, repeat examination after 
admission revealed intact reflexes and was notable mostly for 
muscle aches rather than true weakness. Laboratory evaluation 
was notable only for a mildly elevated CRP, albeit in the 
context of pyuria and bacteriuria. Given these findings, 
suspicion for an inflammatory or demyelinating process was low, 
and the patient's symptoms were ascribed to flu-like symptoms 
arising from her recent immunizations.

2. Cystitis: As noted above, laboratory testing revealed pyuria 
and bacteriuria, with patient reporting malodorous urine similar 
to prior episodes of cystitis. Patient was discharged with a 
three-day course of TMP-SMX.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild Duration: 7 Days 
RX *ibuprofen 600 mg 1 (One) tablet(s) by mouth every six (6) 
hours Disp #*28 Tablet Refills:*0 

2.  Sulfamethoxazole-trimethoprim 800 mg-trimethoprim 160 mg 
tablet Duration: 3 Days
RX *sulfamethoxazole-trimethoprim 800 mg-trimethoprim 160 mg 1 
(One) tablet(s) by mouth twice a day Disp #*6 Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-immunization myalgias

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ 
because of muscle pain after receiving vaccinations. A CT scan 
of your head did not show signs of bleeding or a stroke, and a 
repeat clinical exam did not show concerning findings. Your 
muscle pain was felt to most likely reflect a flu-like syndrome 
that is sometimes expected after receiving vaccines. You 
received a prescription for ibuprofen to help with your muscle 
pain as needed.

Please seek medical attention if you experience new or worsening 
weakness, rash, severe headaches, or fevers.

It was a pleasure taking care of you, 
Your ___ Neurologists
 
Followup Instructions:
___